US05981544
850 mg (2.66 mmol) of 2-(3-chloro-2-pyridylamino)-3-chloro-1,4-dihydro-1,4-dioxonaphthalene in solution in 80 mL of glycerol is brought to 190° C. for 20 min. After complete cooling, the yellow precipitate obtained is filtered on fritted glass, washed w-th distilled water, and recrystallized in methanol after decoloration with animal black to produce 300 mg of 4-chloro-6,11-dihydro-6,11-dioxo-naptho[2',3':4,5]imidazo[1,2-a]pyridine in the form of yellow crystals.

reactant | 2-(3-chloro-2-pyridylamino)-3-chloro-1,4-dihydro-1,4-dioxonaphthalene | 2.66 mmol, 850 mg | ClC=1C(=NC=CC1)NC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C15H8Cl2N2O2
solvent | glycerol | 80 mL | OCC(O)CO | C3H8O3
product | 4-chloro-6,11-dihydro-6,11-dioxo-naptho[2',3':4,5]imidazo[1,2-a]pyridine | 300 mg, Yield: 40% | ClC=1C=2N(C=CC1)C1=C(N2)C(C=2C=CC=CC2C1=O)=O | C15H7ClN2O2
